US07635715B2
Step F: Preparation of N-((4-Hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (270 mg, 697 mmol) was reacted with TFA (2 mL) for 30 minutes and then concentrated, precipitated with hexanes, filtered, washed with hexanes, and dried in a vacuum oven to give the title compound (193 mg) as a white solid. MS m/e=332 (M+H)+. Calculated for C17H17NO6 331.11.

reactant | 1,1-Dimethylethyl N-((4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 697 mmol, 270 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC=C12)=O)C(=O)NCC(=O)OC(C)(C)C | C21H25NO6
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 193 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC=C12)=O)C(=O)NCC(=O)O | C17H17NO6
